US06884821B1
0.12 g of ethyl 1-methyl-3-phenyl-1H-5-pyrazolecarboxylate was dissolved in 5 ml ethanol. 1 ml of 5N aqueous sodium hydroxide solution was added thereto, followed by heating under reflux for 1 hour. The reaction solution was ice-cooled, neutralized with 2N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.11 g of 1-methyl-3-phenyl-1H-5-pyrazolecarboxylic acid.

reactant | ethyl 1-methyl-3-phenyl-1H-5-pyrazolecarboxylate | 0.12 g | CN1N=C(C=C1C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-methyl-3-phenyl-1H-5-pyrazolecarboxylic acid | 0.11 g | CN1N=C(C=C1C(=O)O)C1=CC=CC=C1 | C11H10N2O2
